US05476649
5.3 gm of methyl 18-methyl-16-eicosenoate charged into an autoclave together with 0.3 gm of platinum oxide and 30 ml of acetic acid were reduced under 100 atm hydrogen pressure at 100° C. for 5 hours. After the reaction, the catalyst was removed by filtration and the solvent was evaporated to obtain 3 gm of methyl 18-methyleicosanoate, which was purified by flash column chromatography (chloroform). The product was dissolved into 150 ml of a 5% sodium hydroxide-ethanol solution and stirred at room temperature for 8 hours. Then, 95 ml of 2N sulfuric acid was added to obtain a solid. The solid material was filtered and washed with water to obtain 3.1 gm of 18-methyleicosanoic acid (yield: 59% from methyl 18-methyl-16-eicosenoate).

reactant | methyl 18-methyl-16-eicosenoate | 5.3 gm | CC(C=CCCCCCCCCCCCCCCC(=O)OC)CC | C22H42O2
reactant | hydrogen | [H][H] | H2
catalyst | platinum oxide | 0.3 gm | [Pt]=O
solvent | acetic acid | 30 ml | C(C)(=O)O | C2H4O2
product | methyl 18-methyleicosanoate | 3 gm | CC(CCCCCCCCCCCCCCCCC(=O)OC)CC | C22H44O2
